US08865698B2
(R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)morpholine-4-carboxamide
To a DCM (0.8 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 30 mg, 0.095 mmol) was added CDI (31 mg, 0.19 mmol) at ambient temperature in one portion. After stirring two hours, morpholine (17 mg, 0.19 mmol) was added in one portion. The reaction was stirred for 5 minutes before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 55% acetonitrile/water to yield the final product as a yellowish foamy powder (37 mg, 91% yield). MS (apci) m/z=429.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.095 mmol, 30 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | CDI | 0.19 mmol, 31 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | morpholine | 0.19 mmol, 17 mg | N1CCOCC1 | C4H9NO
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)morpholine-4-carboxamide | 37 mg, 91% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CCOCC2 | C21H22F2N6O2
